* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 1.001324e+00    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.746864e-01)*u*u + (3.015499e+00)*u + (1.686286e+01)),4.765914e+01),1.089557e+02)}
.param L_a = {min(max(exp((9.340099e-02)*u*u + (1.367675e+00)*u + (-6.412098e+00)),1.194163e-05),3.462885e-05)}
.param R_pl = {min(max(exp((6.817964e-02)*u*u + (1.216997e-02)*u + (8.929824e-01)),2.391808e+02),6.297578e+03)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((5.366832e-04)*u*u + (1.176336e-02)*u + (6.509545e-02),6.276616e-04),4.467644e-03)}
.param G1 = {min(max((1.302487e-04)*u*u + (2.376015e-03)*u + (1.008185e-02),-7.545778e-04),-3.763224e-04)}
.param w1 = {min(max(exp((4.319133e-02)*u*u + (8.585073e-01)*u + (1.919910e+01)),3.145744e+06),3.453066e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-2.824366e-02)*u*u + (-4.818732e-01)*u + (-1.035534e+01)),2.132628e-04),2.493657e-04)}
.param gn1 = {min(max(exp((-2.143790e-01)*u*u + (-3.839081e+00)*u + (-1.776161e+01)),2.656892e-01),5.654884e-01)}
.param gn2 = {min(max(exp((-2.139306e-01)*u*u + (-3.829244e+00)*u + (-1.913244e+01)),6.391532e-02),1.362669e-01)}
.param gn3 = {min(max(exp((-2.159520e-01)*u*u + (-3.873445e+00)*u + (-2.067783e+01)),1.735329e-02),3.672514e-02)}
.param gn4 = {min(max(exp((-2.266996e-01)*u*u + (-4.078931e+00)*u + (-2.236891e+01)),8.396458e-03),1.801898e-02)}
.param gn5 = {min(max(exp((3.474006e+00)*u*u + (6.970738e+01)*u + (3.335723e+02)),8.676416e-07),3.705705e-03)}
.param gn6 = {min(max(exp((2.557289e-02)*u*u + (6.928580e-01)*u + (-1.304737e+01)),2.376229e-08),4.018447e-08)}
.param vreg = {min(max((5.528135e-04)*u*u + (9.609886e-03)*u + (1.043029e+00),1.001312e+00),1.003781e+00)}
.param COUT=9.996575e-10 ESR=5.001136e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-4.832704e-03,1.000000e-06,-1.144404e-03,1.300000e-05,2.246656e-04,2.500000e-05,1.205806e-03,3.700000e-05,2.020272e-03,4.900000e-05,2.744325e-03,6.100000e-05,3.413470e-03,7.300000e-05,4.047124e-03,8.500000e-05,4.657028e-03,9.700000e-05,5.250772e-03,1.090000e-04,5.833490e-03,1.210000e-04,6.408764e-03,1.330000e-04,6.979152e-03,1.450000e-04,7.546510e-03,1.570000e-04,8.112204e-03,1.690000e-04,8.677260e-03,1.810000e-04,9.242464e-03,1.930000e-04,9.808444e-03,2.050000e-04,1.037573e-02,2.170000e-04,1.094479e-02,2.290000e-04,1.151610e-02,2.410000e-04,1.209013e-02,2.530000e-04,1.266742e-02,2.650000e-04,1.324861e-02,2.770000e-04,1.383442e-02,2.890000e-04,1.442578e-02,3.010000e-04,1.502382e-02,3.130000e-04,1.562997e-02,3.250000e-04,1.624605e-02,3.370000e-04,1.687440e-02,3.490000e-04,1.751807e-02,3.610000e-04,1.818107e-02,3.730000e-04,1.886860e-02,3.850000e-04,1.958743e-02,3.970000e-04,2.034603e-02,4.090000e-04,2.115457e-02,4.210000e-04,2.202415e-02,4.330000e-04,2.296524e-02,4.450000e-04,2.398550e-02,4.570000e-04,2.508786e-02,4.690000e-04,2.626994e-02,4.810000e-04,2.752508e-02,4.930000e-04,2.839764e-02,5.010000e-04,3.068647e-02,5.210000e-04,3.309539e-02,5.410000e-04,3.559278e-02,5.610000e-04,3.815608e-02,5.810000e-04,4.074674e-02,6.010000e-04,4.340722e-02,6.210000e-04,4.609390e-02,6.410000e-04,4.880633e-02,6.610000e-04,5.154016e-02,6.810000e-04,5.429254e-02,7.010000e-04,5.706127e-02,7.210000e-04,5.984465e-02,7.410000e-04,6.264137e-02,7.610000e-04,6.545035e-02,7.810000e-04,6.827078e-02,8.010000e-04,7.110197e-02,8.210000e-04,7.394337e-02,8.410000e-04,7.679454e-02,8.610000e-04,7.965511e-02,8.810000e-04,8.252478e-02,9.010000e-04,8.540329e-02,9.210000e-04,8.829043e-02,9.410000e-04,9.118603e-02,9.610000e-04,9.408995e-02,9.810000e-04,9.700206e-02,1.001000e-03,9.992227e-02,1.021000e-03,1.028505e-01,1.041000e-03,1.057866e-01,1.061000e-03,1.087307e-01,1.081000e-03,1.116825e-01,1.101000e-03,1.146422e-01,1.121000e-03,1.176096e-01,1.141000e-03,1.205848e-01,1.161000e-03,1.235678e-01,1.181000e-03,1.265584e-01,1.201000e-03,1.295568e-01,1.221000e-03,1.325629e-01,1.241000e-03,1.355767e-01,1.261000e-03,1.385982e-01,1.281000e-03,1.416275e-01,1.301000e-03,1.446645e-01,1.321000e-03,1.477093e-01,1.341000e-03,1.507619e-01,1.361000e-03,1.538222e-01,1.381000e-03,1.568904e-01,1.401000e-03,1.599665e-01,1.421000e-03,1.630504e-01,1.441000e-03,1.661422e-01,1.461000e-03,1.692420e-01,1.481000e-03,1.723497e-01,1.501000e-03,1.754655e-01,1.521000e-03,1.785892e-01,1.541000e-03,1.817211e-01,1.561000e-03,1.848610e-01,1.581000e-03,1.880092e-01,1.601000e-03,1.911655e-01,1.621000e-03,1.943300e-01,1.641000e-03,1.975029e-01,1.661000e-03,2.006841e-01,1.681000e-03,2.038737e-01,1.701000e-03,2.070718e-01,1.721000e-03,2.102784e-01,1.741000e-03,2.134935e-01,1.761000e-03,2.167173e-01,1.781000e-03,2.199498e-01,1.801000e-03,2.231911e-01,1.821000e-03,2.264412e-01,1.841000e-03,2.297002e-01,1.861000e-03,2.329683e-01,1.881000e-03,2.362454e-01,1.901000e-03,2.395318e-01,1.921000e-03,2.428274e-01,1.941000e-03,2.461323e-01,1.961000e-03,2.494468e-01,1.981000e-03,2.527709e-01,2.001000e-03,2.561047e-01,2.021000e-03,2.594483e-01,2.041000e-03,2.628020e-01,2.061000e-03,2.661657e-01,2.081000e-03,2.695398e-01,2.101000e-03,2.729243e-01,2.121000e-03,2.763195e-01,2.141000e-03,2.797255e-01,2.161000e-03,2.831425e-01,2.181000e-03,2.865708e-01,2.201000e-03,2.900105e-01,2.221000e-03,2.934620e-01,2.241000e-03,2.969256e-01,2.261000e-03,3.004014e-01,2.281000e-03,3.038899e-01,2.301000e-03,3.073913e-01,2.321000e-03,3.109061e-01,2.341000e-03,3.144346e-01,2.361000e-03,3.179772e-01,2.381000e-03,3.215345e-01,2.401000e-03,3.251068e-01,2.421000e-03,3.286948e-01,2.441000e-03,3.322990e-01,2.461000e-03,3.359199e-01,2.481000e-03,3.395583e-01,2.501000e-03,3.432147e-01,2.521000e-03,3.468901e-01,2.541000e-03,3.505850e-01,2.561000e-03,3.543004e-01,2.581000e-03,3.580371e-01,2.601000e-03,3.617961e-01,2.621000e-03,3.655783e-01,2.641000e-03,3.693848e-01,2.661000e-03,3.732167e-01,2.681000e-03,3.770752e-01,2.701000e-03,3.809613e-01,2.721000e-03,3.848766e-01,2.741000e-03,3.888222e-01,2.761000e-03,3.927996e-01,2.781000e-03,3.968103e-01,2.801000e-03,4.008560e-01,2.821000e-03,4.049382e-01,2.841000e-03,4.090586e-01,2.861000e-03,4.132193e-01,2.881000e-03,4.174221e-01,2.901000e-03,4.216691e-01,2.921000e-03,4.259625e-01,2.941000e-03,4.303046e-01,2.961000e-03,4.346981e-01,2.981000e-03,4.391455e-01,3.001000e-03,4.436498e-01,3.021000e-03,4.482140e-01,3.041000e-03,4.528415e-01,3.061000e-03,4.575358e-01,3.081000e-03,4.623007e-01,3.101000e-03,4.671406e-01,3.121000e-03,4.720598e-01,3.141000e-03,4.770635e-01,3.161000e-03,4.821568e-01,3.181000e-03,4.873458e-01,3.201000e-03,4.926367e-01,3.221000e-03,4.980368e-01,3.241000e-03,5.035536e-01,3.261000e-03,5.091958e-01,3.281000e-03,5.149725e-01,3.301000e-03,5.208943e-01,3.321000e-03,5.269725e-01,3.341000e-03,5.333097e-01,3.361000e-03,5.397474e-01,3.381000e-03,5.463843e-01,3.401000e-03,5.532375e-01,3.421000e-03,5.603259e-01,3.441000e-03,5.676706e-01,3.461000e-03,5.752943e-01,3.481000e-03,5.832222e-01,3.501000e-03,5.914817e-01,3.521000e-03,6.001022e-01,3.541000e-03,6.091153e-01,3.561000e-03,6.185540e-01,3.581000e-03,6.284526e-01,3.601000e-03,6.388456e-01,3.621000e-03,6.497669e-01,3.641000e-03,6.612485e-01,3.661000e-03,6.733188e-01,3.681000e-03,6.860018e-01,3.701000e-03,6.993153e-01,3.721000e-03,7.132703e-01,3.741000e-03,7.278706e-01,3.761000e-03,7.431129e-01,3.781000e-03,7.589877e-01,3.801000e-03,7.754801e-01,3.821000e-03,7.925717e-01,3.841000e-03,8.102416e-01,3.861000e-03,8.284679e-01,3.881000e-03,8.472283e-01,3.901000e-03,8.665013e-01,3.921000e-03,8.862661e-01,3.941000e-03,9.065032e-01,3.961000e-03,9.271940e-01,3.981000e-03,9.483211e-01,4.001000e-03,9.698680e-01,4.021000e-03,9.918187e-01,4.041000e-03,1.014158e+00,4.061000e-03,1.036870e+00,4.081000e-03,1.059941e+00,4.101000e-03,1.083356e+00,4.121000e-03,1.107101e+00,4.141000e-03,1.131163e+00,4.161000e-03,1.155378e+00,4.181000e-03,1.180038e+00,4.201000e-03,1.204975e+00,4.221000e-03,1.230177e+00,4.241000e-03,1.255629e+00,4.261000e-03,1.281320e+00,4.281000e-03,1.307238e+00,4.301000e-03,1.333372e+00,4.321000e-03,1.359709e+00,4.341000e-03,1.386239e+00,4.361000e-03,1.412952e+00,4.381000e-03,1.439837e+00,4.401000e-03,1.466885e+00,4.421000e-03,1.494087e+00,4.441000e-03,1.521432e+00,4.461000e-03,1.548913e+00,4.481000e-03,1.576522e+00,4.501000e-03,1.604250e+00,4.521000e-03,1.632090e+00,4.541000e-03,1.660034e+00,4.561000e-03,1.688077e+00,4.581000e-03,1.716210e+00,4.601000e-03,1.744428e+00,4.621000e-03,1.772726e+00,4.641000e-03,1.801096e+00,4.661000e-03,1.829534e+00,4.681000e-03,1.858035e+00,4.701000e-03,1.886594e+00,4.721000e-03,1.915206e+00,4.741000e-03,1.943866e+00,4.761000e-03,1.972571e+00,4.781000e-03,2.001316e+00,4.801000e-03,2.030098e+00,4.821000e-03,2.058913e+00,4.841000e-03,2.087758e+00,4.861000e-03,2.116628e+00,4.881000e-03,2.145522e+00,4.901000e-03,2.174437e+00,4.921000e-03,2.203368e+00,4.941000e-03,2.232315e+00,4.961000e-03,2.261274e+00,4.981000e-03,2.290242e+00,5.001000e-03,2.319218e+00,5.021000e-03,2.348200e+00,5.041000e-03,2.377185e+00,5.061000e-03,2.406171e+00,5.081000e-03,2.435157e+00,5.101000e-03,2.464141e+00,5.121000e-03,2.493121e+00,5.141000e-03,2.522095e+00,5.161000e-03,2.551063e+00,5.181000e-03,2.580022e+00,5.201000e-03,2.608971e+00,5.221000e-03,2.637910e+00,5.241000e-03,2.666835e+00,5.261000e-03,2.695748e+00,5.281000e-03,2.724646e+00,5.301000e-03,2.753528e+00,5.321000e-03,2.782394e+00,5.341000e-03,2.811242e+00,5.361000e-03,2.840071e+00,5.381000e-03,2.868881e+00,5.401000e-03,2.897671e+00,5.421000e-03,2.926440e+00,5.441000e-03,2.955188e+00,5.461000e-03,2.983913e+00,5.481000e-03,3.012615e+00,5.501000e-03,3.041293e+00,5.521000e-03,3.069948e+00,5.541000e-03,3.098577e+00,5.561000e-03,3.127181e+00,5.581000e-03,3.155759e+00,5.601000e-03,3.184311e+00,5.621000e-03,3.212836e+00,5.641000e-03,3.241334e+00,5.661000e-03,3.269804e+00,5.681000e-03,3.298246e+00,5.701000e-03,3.326660e+00,5.721000e-03,3.355045e+00,5.741000e-03,3.383401e+00,5.761000e-03,3.411727e+00,5.781000e-03,3.440024e+00,5.801000e-03,3.468291e+00,5.821000e-03,3.496528e+00,5.841000e-03,3.524735e+00,5.861000e-03,3.552910e+00,5.881000e-03,3.581055e+00,5.901000e-03,3.609169e+00,5.921000e-03,3.637252e+00,5.941000e-03,3.665303e+00,5.961000e-03,3.693323e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.257796e-09        $ corner 19.27 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 5.535445e-10        $ corner 287.5 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 3.640863e-11        $ corner 4371 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 3.865440e-13        $ corner 4.117e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 1.932921e-13        $ corner 8.234e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 7.761084e-15        $ corner 2.051e+07 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

